US04569942
To a stirred solution of 22 g of sodium in 450 ml of anhydrous ethanol was added, portionwise, 43.5 g of 4-chloro-3-hydrazono-2-oxindole, and the resulting solution was heated under reflux for 30 minutes. The cooled solution was then concentrated to a gum, which was dissolved in 400 ml of water and decolorized using activated carbon. The resulting solution was poured onto a mixture of 1 liter of water and 45 ml of concentrated hydrochloric acid. The precipitate which formed was recovered by filtration, dried and recrystallized from ethanol, giving 22.4 g of 4-chloro-2-oxindole, m.p. 216°-218° C. (dec).

reactant | sodium | 22 g | [Na] | Na
reactant | 4-chloro-3-hydrazono-2-oxindole | 43.5 g | ClC1=C2C(C(NC2=CC=C1)=O)=NN | C8H6ClN3O
solvent | ethanol | 450 ml | C(C)O | C2H6O
product | 4-chloro-2-oxindole | 22.4 g | ClC1=C2CC(NC2=CC=C1)=O | C8H6ClNO
